US07414050B2
c) 2-(4-Amino-3-cyclohex-1-enyl-phenyl)-malonic acid dimethyl ester
A mixture of 2-(3-cyclohex-1-enyl-4-nitro-phenyl)-malonic acid dimethyl ester (as prepared in the previous step, 200 mg, 0.600 mmol), iron powder (168 mg, 3.00 mmol) and NH4Cl (321 mg, 6.00 mmol) in 6 mL of ethanol was stirred at 80° C. for 16 h. After cooling to RT, the mixture was treated with 30 mL of H2O and extracted with EtOAc (3×20 mL). The combined organic layers were dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (30% EtOAc-hexane) to give 129 mg (71%) of the title compound as a faint yellow oil: Mass spectrum (ESI, m/z): Calcd. for C17H21NO4, 304.2 (M+H). found 304.1.

reactant | 2-(3-cyclohex-1-enyl-4-nitro-phenyl)-malonic acid dimethyl ester | COC(C(C(=O)OC)C1=CC(=C(C=C1)[N+](=O)[O-])C1=CCCCC1)=O | C17H19NO6
reactant | NH4Cl | 6.00 mmol, 321 mg | [NH4+].[Cl-]
reactant | H2O | 30 mL | O | H2O
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | iron | 3.00 mmol, 168 mg | [Fe] | Fe
product | 2-(4-Amino-3-cyclohex-1-enyl-phenyl)-malonic acid dimethyl ester | 129 mg, 71% | COC(C(C(=O)OC)C1=CC(=C(C=C1)N)C1=CCCCC1)=O | C17H21NO4
